US05114939
8-Fluoro-N-[2-(2-thienyl)ethyl]-4-quinolinamine
A mixture of 2.0 g of 4-chloro-8-fluoroquinoline and 2.8 g of 2-(2-thienyl)ethyl amine was heated under nitrogen to 160°-165° C. for two hours, then cooled and combined with 200 mL of a 50:50 mixture of ammonium hydroxide and water. The product was extracted into CH2Cl2, which was then concentrated to dryness. The residue was recrystallized from pentane/CH2Cl2 to give 1.0 g of the title product. Yield 34.5%. M.P. 157°-158° C.

reactant | 4-chloro-8-fluoroquinoline | 2.0 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | 2-(2-thienyl)ethyl amine | 2.8 g | S1C(=CC=C1)CCN | C6H9NS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 8-Fluoro-N-[2-(2-thienyl)ethyl]-4-quinolinamine | 1.0 g, Yield 34.5% | FC=1C=CC=C2C(=CC=NC12)NCCC=1SC=CC1 | C15H13FN2S
